US09108952B2
To a solution of 3H-[1,2,3]triazolo[4,5-b]pyridin-3-ol (7.77 g, 57.1 mmol), 2-(tert-butoxycarbonylamino)acetic acid (10 g, 57.1 mmol), cyclopropanamine (3.91 g, 68.5 mmol) and DMAP (8.37 g, 68.5 mmol) in DMF (28 mL) was added N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrogen chloride salt and the mixture stirred at room temperature for 16 h. The mixture was diluted with ethyl acetate, washed with 0.1N aqueous HCl, aqueous NaHCO3 and brine, dried over MgSO4, filtered and concentrated in vacuo to give tert-butyl 2-(cyclopropylamino)-2-oxoethylcarbamate (8.90 g, 41.5 mmol, 72.8%) as a pale yellow oil: 1H NMR (400 MHz, CDCl3) δ 6.18 (s, 1H), 3.74 (d, J=5.9 Hz, 2H), 2.71 (m, 1H), 1.45 (s, 9H); 0.84-0.7 (m, 2H), 0.56-0.43 (m, 2H); EIMS m/z 214 ([M]+). To a solution of tert-butyl 2-(cyclopropylamino)-2-oxoethylcarbamate (8.5 g, 39.7 mmol) in dioxane (20 mL) was added HCl (100 mmol, 25 mL 4 M in dioxane) and the mixture stirred at 10° C. for 3 h. The mixture was diluted with hexanes and filtered under vacuum to give 2-amino-N-cyclopropylacetamide, HCl salt as a white solid (5.2 g, 83%): mp 139-142° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.66 (bs, 1H), 8.19 (bs, 3H), 3.46 (s, 2H), 2.73-2.60 (m, 1H), 0.71-0.60 (m, 2H), 0.48-0.36 (m, 2H).

reactant | 3H-[1,2,3]triazolo[4,5-b]pyridin-3-ol | 57.1 mmol, 7.77 g | N1=NN(C2=NC=CC=C21)O | C5H4N4O
reactant | 2-(tert-butoxycarbonylamino)acetic acid | 57.1 mmol, 10 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | cyclopropanamine | 68.5 mmol, 3.91 g | C1(CC1)N | C3H7N
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrogen chloride salt | Cl.C(C)N=C=NCCCN(C)C
catalyst | DMAP | 68.5 mmol, 8.37 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 28 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(cyclopropylamino)-2-oxoethylcarbamate | 41.5 mmol, 8.90 g, 72.8% | C1(CC1)NC(CNC(OC(C)(C)C)=O)=O | C10H18N2O3
